US05854277
To a solution of 4-(4-bromophenyl)-phenol (4.06 g, 16.3 mmol) in acetone (30 mL) at room temperature, was added 4.5 eq K2CO3 (4.0 M, 18 mL, 73.3 mmol) in water and 4.0 eq Iodoethane (5.26 mL, 65.2 mmol). The reaction mixture was stirred overnight, and heated to reflux for 6 hrs. The product was crystallized out of the solution, and filtered. The crude product was recrystallized from hexane to provide ethyl 4-(4-bromophenyl) phenyl ether (4.1 g, 91%) as an white crystal.

reactant | 4-(4-bromophenyl)-phenol | 16.3 mmol, 4.06 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | K2CO3 | 73.3 mmol, 4.0 M, 18 mL, 4.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Iodoethane | 65.2 mmol, 5.26 mL, 4.0 eq | ICC | C2H5I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | ethyl 4-(4-bromophenyl) phenyl ether | 4.1 g, 91% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCC | C14H13BrO
